US06858739B2
[5-(1H-Indol-2-yl)-2-methoxy-phenyl]-methyl-amine
In acetone (50 mL) was placed 5-(1H-indol-2-yl)-2-methoxy-phenylamine (2.38 g, 10 mmol). To this was added potassium carbonate (5.53 g, 40 mmol), and to the vigorously stirred mixture was added methyl iodide (1.55 g, 11 mmol). The mixture warmed to 40° C. and stirred for 48 hours. The mixture cooled to room temperature and was filtered free of inorganics. The resulting solution was evaporated in vacuo to give a solid which was partitioned between ethyl acetate (50 mL) and water (50 mL). The organic phase was separated, dried over magnesium sulfate, and evaporated in vacuo to give a tan solid. This solid was purified by flash chromatography over silica gel (5% ethyl acetate/methylene chloride). Evaporation of the appropriate fractions gave 0.68 g of pure compound. MS: M+1=253.1. 1H NMR (DMSO-d6) δ 2.79 (d, J=5.3 Hz, 3H), 3.80 (s, 3H), 5.08-5.12 (m, 1H), 6.69 (s, 1H), 6.83-7.05 (m, 5H), 7.33 (d, J=7.9 Hz, 1H), 7.44 (d, J=8.0 Hz, 1H), 11.28 (s, 1H) ppm.

reactant | 5-(1H-indol-2-yl)-2-methoxy-phenylamine | 10 mmol, 2.38 g | N1C(=CC2=CC=CC=C12)C=1C=CC(=C(C1)N)OC | C15H14N2O
reactant | potassium carbonate | 40 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 11 mmol, 1.55 g | CI | CH3I
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | [5-(1H-Indol-2-yl)-2-methoxy-phenyl]-methyl-amine | 0.68 g | N1C(=CC2=CC=CC=C12)C=1C=CC(=C(C1)NC)OC | C16H16N2O
